US08470841B2
57d N-{(E)-3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylallyl}acetamide
(E)-3-[4-(6-Isopropoxy-pyridin-3-yloxy)-phenyl]-1-methyl-allylamine trifluoroacetate (63 mg, 0.154 mmol) was reacted with acetic anhydride in analogy to example 2a. M+H+: 341.2.

reactant | (E)-3-[4-(6-Isopropoxy-pyridin-3-yloxy)-phenyl]-1-methyl-allylamine trifluoroacetate | 0.154 mmol, 63 mg | FC(C(=O)O)(F)F.C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)/C=C/C(C)N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-{(E)-3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylallyl}acetamide | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)/C=C/C(C)NC(C)=O | C20H24N2O3
